US06737435B1
(iv) Ethyl-N-(3,4-dichlorobenzyl)3-methoxy-5-hydroxyindole-2-carboxylate
5% Pd/C (100 mg) was added to a stirred solution of ethyl-N-(3,4-dichlorobenzyl)3-methoxy-5-benzyloxyindole-2-carboxylate (0.9 g) in ethyl acetate (50 ml) and the mixture was hydrogenated for 12 hours. Catalyst filtered off and filtrate evaporated to give a brown oil (0.61 g) which was used without further purification. NMR: δ 1.4 (t, 3H), 4.0 (s, 3H), 4.4 (q, 2H), 5.6 (s, 2H), 6.8 (dd, 1H), 6.9 (dd, 1H), 7.1 (m, 3H), 7.3 (d,1H); m/z 394 (MH+)

reactant | ethyl-N-(3,4-dichlorobenzyl)3-methoxy-5-benzyloxyindole-2-carboxylate | 0.9 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1OC)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)Cl)Cl | C26H23Cl2NO4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Ethyl-N-(3,4-dichlorobenzyl)3-methoxy-5-hydroxyindole-2-carboxylate | 0.61 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1OC)O)CC1=CC(=C(C=C1)Cl)Cl | C19H17Cl2NO4
